US08202885B2
BB7. 2-(3-Methylamino-propyl)-1H-benzoimidazole-4-carboxylic acid methyl ester
Prepared from 2,3-diamino-benzoic acid methyl ester (J. Med. Chem. 2000, 43(22), 4084-4097) in analogy to the methods described for [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | 2,3-diamino-benzoic acid methyl ester | COC(C1=C(C(=CC=C1)N)N)=O | C8H10N2O2
reactant | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC2=C(NC(=N2)CCCNC)C=C1OC | C13H19N3O2
product | 2-(3-Methylamino-propyl)-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2NC(=NC21)CCCNC | C13H17N3O2
